2140-02-27 06:37:00 Physician Resident Progress Note
Chief Complaint: Mr. [**Known lastname 1069**] is a 43 year-old male with cardiomyopathy
   s/p ICD found to have ICD lead dysfunction, transferred for ICD
   revision.
   24 Hour Events:
   No events
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2140-2-27**] 12:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2140-2-27**] 06:36 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**41**] AM
   Tmax: 36.3
C (97.3
   Tcurrent: 36.1
C (97
   HR: 61 (60 - 82) bpm
   BP: 108/70(78) {84/50(57) - 147/94(103)} mmHg
   RR: 14 (12 - 22) insp/min
   SpO2: 100%
   Heart rhythm: 1st AV (First degree AV Block)
   Height: 73 Inch
                  Total In:
                                                                    420 mL
                                                                    120 mL
   PO:
                                                                    420 mL
                                                                    120 mL
   TF:
   IVF:
   Blood products:
   Total out:
                                                                    800 mL
                                                                    350 mL
   Urine:
                                                                    800 mL
                                                                    350 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -380 mL
                                                                   -230 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 100%
   ABG: ////
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Resonant : ),
   (Breath Sounds: Clear : , Crackles : bibasilar)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Skin:  Not assessed
   Neurologic: Attentive, Responds to: Not assessed, Movement: Not
   assessed, Tone: Not assessed
   Labs / Radiology
   226 K/uL
   13.6 g/dL
   122 mg/dL
   1.2 mg/dL
   22 mEq/L
   4.1 mEq/L
   15 mg/dL
   104 mEq/L
   138 mEq/L
   41.6 %
   5.4 K/uL
        [image002.jpg]
                             [**2140-2-25**]  02:57 PM
                             [**2140-2-26**]  05:17 AM
   WBC
   5.0
   5.4
   Hct
   40.6
   41.6
   Plt
   192
   226
   Cr
   1.3
   1.2
   Glucose
   123
   122
   Other labs: PT / PTT / INR:11.9/23.3/1.0, ALT / AST:35/29, Alk Phos / T
   Bili:37/0.2, Albumin:4.2 g/dL, LDH:200 IU/L, Ca++:9.6 mg/dL, Mg++:2.2
   mg/dL, PO4:4.0 mg/dL
   Imaging: CXR:  ICD remains in place, with leads terminating in right
   atrium and
   right ventricle. No visible lead fracture on this portable chest
   radiograph,
   which is not optimal for evaluating subtle lead abnormalities. Note is
   made
   of a slightly curved course of the radiodense coil of the right atrial
   lead,
   which is an apparent change from the prior radiograph. If warranted
   clinically, standard PA and lateral chest radiographs could be
   performed to
   more fully evaluate this region, as discussed with Dr. [**Last Name (STitle) 7554**]. Cardiac
   silhouette is mildly enlarged, the aorta is slightly unfolded, and
   lungs are
   clear.
   Assessment and Plan
   Mr. [**Known lastname 1069**] is a 43 year-old male with cardiomyopathy s/p ICD found to
   have ICD lead dysfunction, transferred for ICD revision.
   # ICD lead fracture:  The patient was found on routine monitoring to
   have increased impedance of his ventricular lead, likely indicating
   lead fracture.
   - CXR does not appear to show frank lead fracture.
   - Plan per EP for pacemaker and lead extraction and replacement on
   Monday.
   - Will need type and cross of 2 units over the weekend in preparation
   for the procedure on Monday.
   - Anesthesia consult per EP in preparation for the procedure on Monday
   pending.
   - Monitor on telemetry.
   - NPO p MN on Sunday.
   # PUMP:  The patient has a history of cardiomyopathy and his most
   recent TTE in [**2136**] showed an EF of 45%.  He appears euvolemic on exam.
   - Continue lisinopril, toprol, and verapamil per home regimen.
   # RHYTHM/Hx of Ventricular tachycardia:  The patient is currently in
   sinus rhythm.  Pacemaker A-pacing at 60 bpm when native rate drops
   below that.
   - monitor on telemetry.
   - ICD is currently off so if he develops ventricular tachycardia will
   require ACLS.
   # CORONARIES: The patient has no history of CAD and had a clean cath in
   [**2136**].
   - Continue ASA daily for primary prevention.
   # GERD:
   - Continue omeprazole.
   # Depression:
   - Continue cymbalta.
   ICU Care
   Nutrition:
   Comments: Cardiac diet
   Glycemic Control:
   Lines:
   20 Gauge - [**2140-2-25**] 02:30 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:ICU
   ------ Protected Section ------
   Chart reviewed.  Pt interviewed, examined.  I agree with the note
   above.
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Last Name (NamePattern1) 4345**], MD
   on:[**2140-2-27**] 16:09 ------

2140-02-28 07:42:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: Fractured ICD lead
   24 Hour Events:
   No events
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2140-2-27**] 11:24 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2140-2-28**] 07:40 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**41**] AM
   Tmax: 37
C (98.6
   Tcurrent: 36.8
C (98.2
   HR: 62 (60 - 83) bpm
   BP: 110/64(74) {104/46(68) - 128/89(99)} mmHg
   RR: 23 (14 - 25) insp/min
   SpO2: 99%
   Heart rhythm: A Paced
   Height: 73 Inch
                  Total In:
                                                                  1,620 mL
                  PO:
                                                                  1,620 mL
                  TF:
   IVF:
   Blood products:
   Total out:
                                                                    950 mL
                                                                      0 mL
   Urine:
                                                                    950 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    670 mL
                                                                      0 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 99%
   ABG: ///28/
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Absent), (Left radial pulse:
   Absent), (Right DP pulse: Absent), (Left DP pulse: Absent)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   189 K/uL
   13.6 g/dL
   100 mg/dL
   1.2 mg/dL
   28 mEq/L
   4.0 mEq/L
   14 mg/dL
   103 mEq/L
   138 mEq/L
   39.1 %
   5.6 K/uL
        [image002.jpg]
                             [**2140-2-25**]  02:57 PM
                             [**2140-2-26**]  05:17 AM
                             [**2140-2-27**]  07:42 AM
                             [**2140-2-28**]  03:14 AM
   WBC
   5.0
   5.4
   5.5
   5.6
   Hct
   40.6
   41.6
   41.9
   39.1
   Plt
   192
   226
   189
   Cr
   1.3
   1.2
   1.2
   Glucose
   123
   122
   100
   Other labs: PT / PTT / INR:12.0/24.7/1.0, ALT / AST:35/29, Alk Phos / T
   Bili:37/0.2, Albumin:4.2 g/dL, LDH:200 IU/L, Ca++:9.7 mg/dL, Mg++:2.0
   mg/dL, PO4:4.4 mg/dL
   Assessment and Plan
   Mr. [**Known lastname 1069**] is a 43 year-old male with cardiomyopathy s/p ICD found to
   have ICD lead dysfunction, transferred for ICD revision.
   # ICD lead fracture:  The patient was found on routine monitoring to
   have increased impedance of his ventricular lead, likely indicating
   lead fracture.
   - CXR does not appear to show frank lead fracture.
   - Plan per EP for pacemaker and lead extraction and replacement on
   Monday.
   - Will need type and cross of 2 units over the weekend in preparation
   for the procedure on Monday.
   - Anesthesia consult per EP in preparation for the procedure on Monday
   pending.
   - Monitor on telemetry.
   - NPO p midnight tonight.
   # PUMP:  The patient has a history of cardiomyopathy and his most
   recent TTE in [**2136**] showed an EF of 45%.  He appears euvolemic on exam.
   - Continue lisinopril, toprol, and verapamil per home regimen.
   # RHYTHM/Hx of Ventricular tachycardia:  The patient is currently in
   sinus rhythm.  Pacemaker A-pacing at 60 bpm when native rate drops
   below that.
   - monitor on telemetry.
   - ICD is currently off so if he develops ventricular tachycardia will
   require ACLS.
   # CORONARIES: The patient has no history of CAD and had a clean cath in
   [**2136**].
   - Continue ASA daily for primary prevention.
   # GERD:
   - Continue omeprazole.
   # Depression:
   - Continue zoloft.
   ICU Care
   Nutrition: NPO at midnight
   Glycemic Control:
   Lines:
   20 Gauge - [**2140-2-25**] 02:30 PM
   Prophylaxis:
   DVT: heparin SQ
   Stress ulcer: n/a
   VAP:  n/a
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: CCU

2140-02-29 08:02:00 Physician Resident Progress Note
Chief Complaint: palpitations
   43 y/o male with hx cardiomyopathy 45% s/p ICD found to have ICD lead
   fracture admitted to ICU for lead revision.
   24 Hour Events:
   no CP, no light headedness, no palpitations, no SOB
   NPO for lead extraction
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2140-2-28**] 04:30 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2140-2-29**] 08:00 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**41**] AM
   Tmax: 36.7
C (98
   Tcurrent: 36.7
C (98
   HR: 67 (59 - 74) bpm
   BP: 100/56(66) {100/56(66) - 130/80(89)} mmHg
   RR: 23 (7 - 23) insp/min
   SpO2: 98%
   Heart rhythm: A Paced
   Height: 73 Inch
                  Total In:
                                                                    550 mL
                  PO:
                                                                    550 mL
                  TF:
   IVF:
   Blood products:
   Total out:
                                                                  2,000 mL
                                                                      0 mL
   Urine:
                                                                  2,000 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,450 mL
                                                                      0 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 98%
   ABG: ///26/
   Physical Examination
   CVS: distant S1, S2 clear, no MRG
   CHEST: ICD in place in right anterior chest, no erythema, warmth or
   swelling at site.
   RESP: CTA-B
   ABD: +bs, soft, nt, nd
   Ext: no edema, pulses palpable
   Labs / Radiology
   181 K/uL
   12.5 g/dL
   100 mg/dL
   1.1 mg/dL
   26 mEq/L
   3.9 mEq/L
   12 mg/dL
   103 mEq/L
   136 mEq/L
   37.9 %
   4.8 K/uL
        [image002.jpg]
                             [**2140-2-25**]  02:57 PM
                             [**2140-2-26**]  05:17 AM
                             [**2140-2-27**]  07:42 AM
                             [**2140-2-28**]  03:14 AM
                             [**2140-2-29**]  06:07 AM
   WBC
   5.0
   5.4
   5.5
   5.6
   4.8
   Hct
   40.6
   41.6
   41.9
   39.1
   37.9
   Plt
   192
   226
   189
   181
   Cr
   1.3
   1.2
   1.2
   1.1
   Glucose
   123
   122
   100
   100
   Other labs: PT / PTT / INR:12.8/27.8/1.1, ALT / AST:35/29, Alk Phos / T
   Bili:37/0.2, Albumin:4.2 g/dL, LDH:200 IU/L, Ca++:9.6 mg/dL, Mg++:1.8
   mg/dL, PO4:4.4 mg/dL
   Assessment and Plan
 [**Last Name 121**] PROBLEM
 ENTER DESCRIPTION IN COMMENTS
   Mr. [**Known lastname 1069**] is a 43 year-old male with cardiomyopathy s/p ICD found to
   have ICD lead dysfunction, transferred for ICD revision.
   # ICD lead fracture:  The patient was found on routine monitoring to
   have increased impedance of his ventricular lead, likely indicating
   lead fracture.
   - Plan per EP for pacemaker and lead extraction and replacement today.
   -NPO . Resume diet post procedure
   - Monitor on telemetry.
   # PUMP:  The patient has a history of cardiomyopathy and his most
   recent TTE in [**2136**] showed an EF of 45%.  He appears euvolemic on exam.
   - Continue lisinopril, toprol, and verapamil per home regimen.
   # RHYTHM/Hx of Ventricular tachycardia:  The patient is currently in
   sinus rhythm.  Pacemaker A-pacing at 60 bpm when native rate drops
   below that.
   - monitor on telemetry.
   - ICD is currently off so if he develops ventricular tachycardia will
   require ACLS.
   # CORONARIES: The patient has no history of CAD and had a clean cath in
   [**2136**].
   - Continue ASA daily for primary prevention.
   # GERD:
   - Continue omeprazole.
   # Depression:
   - Continue zoloft.
   No
   ICU Care
   Nutrition: NPO. Resume diet post procedure
   Glycemic Control:
   Lines:
   20 Gauge - [**2140-2-25**] 02:30 PM
   Prophylaxis:
   DVT: heparin SQ
   Stress ulcer: n/a
   VAP:  n/a
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: CCU for now with call out s/p lead revision if stable.

2140-03-01 06:52:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 OR SENT - At [**2140-2-29**] 05:20 PM
 ARTERIAL LINE - START [**2140-2-29**] 05:38 PM
 OR RECEIVED - At [**2140-2-29**] 07:50 PM
   - went to OR for ICD revision, returned to CCU at 7 p.m.
   - EP recs: will need CXR PA and lateral in a.m.; right arm in sling;
   continue abx for 1 week
   - 9 p.m. patient complaining of nausea and dyspnea, vitals stable; gave
   Zofran 4 mg IV; EKG unchanged; CXR no pneumo (our read); ABG
   7.38/38/189
   - 3 a.m., complaining of nausea, relieved with Zofran, otherwise
   asymptomatic. Performed post-cath check, which was normal. Ordered
   Ativan to help with anxiety/sleep/nausea.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2140-2-29**] 06:00 PM
   Infusions:
   Other ICU medications:
   Lorazepam (Ativan) - [**2140-3-1**] 03:40 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   This morning, patient reports some soreness at the pacer site.  Denies
   any other complaints. No CP, SOB, N/V at this time.
   Flowsheet Data as of  [**2140-3-1**] 06:51 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**41**] AM
   Tmax: 36.6
C (97.8
   Tcurrent: 36.4
C (97.6
   HR: 64 (60 - 83) bpm
   BP: 117/62(80) {114/60(79) - 144/82(101)} mmHg
   RR: 21 (0 - 25) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 132.2 kg (admission): 132.5 kg
   Height: 73 Inch
                  Total In:
                                                                  1,320 mL
                                                                    120 mL
   PO:
                                                                    120 mL
                                                                    120 mL
   TF:
   IVF:
                                                                  1,200 mL
   Blood products:
   Total out:
                                                                  1,100 mL
                                                                    685 mL
   Urine:
                                                                    850 mL
                                                                    685 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    220 mL
                                                                   -565 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 95%
   ABG: 7.38/38/189//-1
   Physical Examination
   GEN: Alert, NAD
   HEENT: R pupil reactive to light; L pupil abnormality [**2-2**] childhood
   trauma; EOMI; OP clear
   NECK: No JVD appreciated
   CVS: RRR; No m/r/g appreciated
   CHEST: Dressing intact over pacer site.
   RESP: CTAB
   ABD: S/NT/ND; BS present
   Ext: no LE edema noted; No calf pain noted; 2+ radial and DP pulses
   bilaterally
   Labs / Radiology
   176 K/uL
   12.5 g/dL
   100 mg/dL
   1.1 mg/dL
   26 mEq/L
   3.9 mEq/L
   12 mg/dL
   103 mEq/L
   136 mEq/L
   37.9 %
   7.2
        [image002.jpg]
                             [**2140-2-25**]  02:57 PM
                             [**2140-2-26**]  05:17 AM
                             [**2140-2-27**]  07:42 AM
                             [**2140-2-28**]  03:14 AM
                             [**2140-2-29**]  06:07 AM
                             [**2140-2-29**]  08:51 PM
   WBC
   5.0
   5.4
   5.5
   5.6
   4.8
   Hct
   40.6
   41.6
   41.9
   39.1
   37.9
   Plt
   192
   226
   189
   181
   Cr
   1.3
   1.2
   1.2
   1.1
   TCO2
   23
   Glucose
   123
   122
   100
   100
   Other labs: PT / PTT / INR:12.8/27.8/1.1, ALT / AST:35/29, Alk Phos / T
   Bili:37/0.2, Albumin:4.2 g/dL, LDH:200 IU/L, Ca++:9.6 mg/dL, Mg++:1.8
   mg/dL, PO4:4.4 mg/dL
   Assessment and Plan
   Mr. [**Known lastname 1069**] is a 43 year-old male with cardiomyopathy s/p ICD found to
   have ICD lead dysfunction, transferred for ICD revision.  Now is s/p
   ICD revision yesterday.
   # ICD lead fracture:  The patient was found on routine monitoring to
   have increased impedance of his ventricular lead, likely indicating
   lead fracture.  Went for ICD revision yesterday, no complications.
   - Continue to monitor on telemetry
   - F/u CXR this morning
   - 7-day course of cephalexin
   - Advancing diet this morning
   - Consider d/c home vs. call out to floor today
   # PUMP:  The patient has a history of cardiomyopathy and his most
   recent TTE in [**2136**] showed an EF of 45%.  No obvious signs of fluid
   overload on exam.
   - Continue lisinopril, toprol, and verapamil per home regimen.
   # RHYTHM/Hx of Ventricular tachycardia:  Pacemaker with demand atrial
   pacing.
   - monitor on telemetry.
   - ICD back on s/p revision
   # CORONARIES: The patient has no history of CAD and had a clean cath in
   [**2136**].
   - Continue ASA daily for primary prevention.
   # GERD:
   - Continue omeprazole.
   # Depression:
   - Continue zoloft.
   ICU Care
   Nutrition: Advancing diet as tolerated to Cardiac/HH Diet this morning.
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Arterial Line - [**2140-2-29**] 05:38 PM
   18 Gauge - [**2140-2-29**] 06:00 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: D/c home today vs. Call out to floor